US06353025B1
To a stirred solution of 4-amino-3-chlorophenethyl alcohol (950 mg) and triethylamine (2.3 ml) in tetrahydrofuran (5.5 ml) was added a solution of trifluoroacetic anhydride (1.6 ml) in tetrahydrofuran (2.0 ml) under ice-cooling, and the mixture was stirred for 10 minutes. To the reaction mixture was added methanol (2.0 ml), and the resulting mixture was stirred for 5 minutes. 1N Hydrochloric acid (10 ml) was added to the stirred mixture, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium bicarbonate solution and brine subsequently, and dried over anhydrous magnesium sulfate. Removal of the solvent in vacuo gave 2′-chloro-4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide (1.4 g).

reactant | 4-amino-3-chlorophenethyl alcohol | 950 mg | NC1=C(C=C(CCO)C=C1)Cl | C8H10ClNO
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 1.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 5.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
solvent | methanol | 2.0 ml | CO | CH4O
product | 2′-chloro-4′-(2-hydroxyethyl)-2,2,2-trifluoroacetanilide | 1.4 g | ClC1=C(NC(C(F)(F)F)=O)C=CC(=C1)CCO | C10H9ClF3NO2
